### PR TITLE
[Merged by Bors] - feat(Condensed): light condensed modules form a Grothendieck abelian category

### PR DESCRIPTION
**Pull request by dagurtomas**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/ModuleCat/AB.lean [hunk 1]
```diff
@@ -30,3 +32,13 @@ instance : AB4 (ModuleCat.{u} R) := AB4.of_AB5 _
...
   ofShape J :=
     HasExactLimitsOfShape.domain_of_functor (Discrete J) (forget₂ (ModuleCat R) AddCommGrp.{u})
+
+lemma ModuleCat.isSeparator : IsSeparator (ModuleCat.of R R) := fun X Y f g h ↦ by
+  simp only [Set.mem_singleton_iff, forall_eq, ModuleCat.hom_ext_iff, LinearMap.ext_iff] at h
+  ext x
+  simpa using h (ModuleCat.ofHom (LinearMap.toSpanSingleton R X x)) 1
+
+instance : HasSeparator (ModuleCat.{u} R) where
+  hasSeparator := ⟨ModuleCat.of R R, ModuleCat.isSeparator R⟩
```
Comment (erdOne) [inline Mathlib/Algebra/Category/ModuleCat/AB.lean:42]: We can probably achieve this for `ModuleCat.{v} R` for `Small.{v} R`.

Comment (dagurtomas) [reply Mathlib/Algebra/Category/ModuleCat/AB.lean]: done

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
